US04171367
2(1,3-Diphenyl-5-pyrazolyl) amino-2-imidazoline
N(1,3-Diphenyl-5-pyrazolyl)-S-methyl isothiourea hydroiodide (43.6 g.) and ethylene diamine (12.0 g.) were reacted as described in Example VI to give 26.0 g. of the product, mp. 228°-230° C.

reactant | N(1,3-Diphenyl-5-pyrazolyl)-S-methyl isothiourea hydroiodide | 43.6 g | I.C1(=CC=CC=C1)N1N=C(C=C1NC(SC)=N)C1=CC=CC=C1
reactant | ethylene diamine | 12.0 g | C(CN)N | C2H8N2
product | 2(1,3-Diphenyl-5-pyrazolyl) amino-2-imidazoline | C1(=CC=CC=C1)N1N=C(C=C1NC=1NCCN1)C1=CC=CC=C1 | C18H17N5
